### PR TITLE
Towards a common done tactic

### PR DESCRIPTION
**Pull request by thomas-lamiaux**
Benchmarking a new version of done 

linked to this discussion https://coq.zulipchat.com/#narrow/stream/237656-Coq-devs-.26-plugin-devs/topic/Towards.20a.20common.20done

### CODE REVIEW

File: mathcomp/solvable/jordanholder.v [hunk 1]
```diff
@@ -637,7 +637,6 @@ have i1 : perm_eq (mksrepr G N1 :: mkfactors N1 st1)
     by apply: subset_trans (normal_norm nN2G); apply: normal_sub.
   rewrite -quotientMidl (maxainvM _ _ maxN_2) //.
     by apply: maxainv_asimple_quo.
-  by move=> e; apply: neN12.
```
Comment (proux01) [inline mathcomp/solvable/jordanholder.v:640]: Then I guess, the remaining line should be deindented.

File: mathcomp/ssreflect/order.v [hunk 2]
```diff
@@ -4128,13 +4128,13 @@ Qed.
 Lemma eq_bigmin j P F : P j -> (forall i, P i -> F i <= x) ->
   {i0 | i0 \in P & \big[min/x]_(i | P i) F i = F i0}.
 Proof.
-by move=> Pi0 Hx; rewrite (bigmin_eq_arg Pi0) //; eexists=> //; case: arg_minP.
+by move=> Pi0 Hx; rewrite (bigmin_eq_arg Pi0) //; eexists; last done; case: arg_minP.
```
Comment (proux01) [inline mathcomp/ssreflect/order.v:4131]: Alternatively you cas use the syntax `=> [|//]` to apply done on the second goal only

Comment (proux01) [reply mathcomp/ssreflect/order.v:4131]: Out of curiosity, what happened if you didn't change anything?

Comment (thomas-lamiaux) [reply mathcomp/ssreflect/order.v:4131]: The addition of `eassumption` was inferring something wrong, making the second goal unsolvable. I think it is a relatively rare case.

File: mathcomp/ssreflect/ssreflect.v [hunk 3]
```diff
@@ -45,3 +45,31 @@ Hint Extern 0 (@vm_compute_eq _ _ _) =>
...
+    (* 3. Inconsistencies *)
+    | contradiction  (* (P, ~P) or (~True) *)
+    | match goal with H : ~ _ |- _ => solve [case H; reflexivity || trivial] end
+    | tac            (* inversion scheme *)
+    (* 4. Change goal *)
+    | split
+    ]
+  ].
+
+Ltac done ::= done_gen discriminate.
```
Comment (gares) [inline mathcomp/ssreflect/ssreflect.v:75]: I don't get why this is here and not in ssreflect.v in Coq.
I mean, it is OK to make a test, but seems out of place otherwise.

Comment (thomas-lamiaux) [reply mathcomp/ssreflect/ssreflect.v:75]: It is just for testing

**Comment by thomas-lamiaux** [comment]
I have managed to fix coq-bits, gaia, QuickChick, reglang (about 15 minutes in total).
But I have never managed to install and get the dependencies to work for graph-theory and coqeal.
I have not tried coquelicot and vcfloat.

Once installed, it never took more than 10 lines to change per folder. To sum up:
- a few lines to remove because it is now doing a bit more with repeated hnf 
- two cases where it worked only because hnf was done only once and breaks otherwise. For instance, in reglang: 
  ```
   Goal => agree (bound s) I I'
  hnf => forall X, X < bound s -> I X  =i I' X
  eassumption => SOLVED
  ```
  but
  ```
  repeat (intros ?) => forall x : ... , (x  \in I X) = (x  \in I' X)
  ```
  then reflexivity fails because = is EqBool (I think) and is not declared as reflexive

I think they would be no issues to port the rest.

**Comment by proux01** [comment]
> But I have never managed to install and get the dependencies to work for graph-theory and coqeal.

* if you're using opam, just follow the dependencies in opam files, or `opam install --deps-only` (requires the coq extra-dev repo), beware that graph-theory is split in two packages in the opam repo: coq-graph-theory and coq-graph-theory-planar
* if you're using nix-shell, it compiles all dependencies for you / retrieve them from cachix (see there from installation: https://github.com/math-comp/math-comp/wiki/Using-nix then `nix-shell --argstr job coqeal` opens a shell with all dependencies to compile coqeal so `cd your_local_copy_of_coqeal` then `make` should work
* if nothing works, be more precise

**Comment by proux01** [comment]
Also note that if you actually want to test your tactic, you may want to modify the copies of done in https://github.com/math-comp/bigenough/blob/5a5ff278089847d31a28067eb7ca4fad6a49f11c/bigenough.v#L100-L118 and https://github.com/math-comp/analysis/blob/2a5db32b511605cc3a678cdbe655db61989aeccc/theories/topology.v#L952-L957
FWIW, there seem to be other copies/alterations of done in at least color, corn, graph-theory and HoTT.

**Comment by thomas-lamiaux** [comment]
I think this version should break less things (I have reset config.nix to try), and actually be an extension of ssreflect'one as 
- it runs hnf directly, so stuff that needed hnf but had nothing to introduce will still pass as before
- it runs hnf, intros only once at a time, so stuff that need exactly one hnf then trivial like before will work

However, it should be a little bit slower for goals that need `contradiction` or `discriminate` as they could be several `hnf; intros` loop happening before running them. Yet, I would be surprised if they were that many such examples

**Comment by thomas-lamiaux** [comment]
> Also note that if you actually want to test your tactic, you may want to modify the copies of done in https://github.com/math-comp/bigenough/blob/5a5ff278089847d31a28067eb7ca4fad6a49f11c/bigenough.v#L100-L118 

I don't think so as the strategy adopted is widely different

> and https://github.com/math-comp/analysis/blob/2a5db32b511605cc3a678cdbe655db61989aeccc/theories/topology.v#L952-L957 

> FWIW, there seem to be other copies/alterations of done in at least color, corn, graph-theory and HoTT.

Yes, it is a clear extention. It would be good to have a simple way to extend the solve rather then having people copying it each time.

**Comment by thomas-lamiaux** [comment]
I did fix `gaia` but had forgotten to push, it should work now

**Comment by thomas-lamiaux** [comment]
I have done what I could but I have not managed to fix coquelicot, PSeries Abel theorem l1589.
The proof breaks in very weird way that seem to has no link with the change at all.
Further, vcfloat seem to depend on it somehow so I can't fix it
```
error: builder for '/nix/store/pz810w897gy62p95y35qb6n7zw7i6x0w-coq8.19-coquelicot-dev.drv' failed with exit code 1
```

**Comment by thomas-lamiaux** [comment]
I have finally managed to fix coquelicot. The issue was that a variable was introduced with an evar has type, the type was then inferred wrong by a `by` through `eassumption` breaking the proof in a very surprising way. Once fixed, the rest was easy. 

It still breaks for CI with coq 8.18 because `Rle` (<= on real) is not declared as reflexive relation before Coq 8.19.
Consequently, some goal needs to be proven in 8.18 but no longer for 8.19 or more as now reflexivity is used.
I guess the easiest fix would be to add it as an instance, but I am not sure it good practice to declare an instance twice.

**Comment by proux01** [comment]
> I have finally managed to fix coquelicot. The issue was that a variable was introduced with an evar has type, the type was then inferred wrong by a `by` through `eassumption` breaking the proof in a very surprising way.

done having other side effects than solving a goal sounds nasty. But not sure whether this should be blamed to your done or to that proof having evars around.

> It still breaks for CI with coq 8.18

BTW, why care about 8.18 since your change will happen in Coq master anyway?

**Comment by thomas-lamiaux** [comment]
The side effect is real one in a million line I fixed, and I had never seen a variable whose type in an ever, so I think it is fine. 

I was curious to know why it was breaking for a version of Coq and not the others.

**Comment by thomas-lamiaux** [comment]
What is the time indicated for compiling it worth ? It seems a bit random

**Comment by proux01** [comment]
Since there is a cache, times indicated in the CI can be time to retrieve things in cache, not actual compilation time.

**Comment by thomas-lamiaux** [comment]
How do you decide if you want to merge sth then ?

**Comment by thomas-lamiaux** [comment]
I think we also want to change `ssrdone0` to `fast_done` as currently it does not seem to be much used as it is so closed to `done` in terms of performance

**Comment by thomas-lamiaux** [comment]
Considering the actions, it seems it not even used once, as I have replaced it by sth much weaker and nothing more seems to break, hence the suggested replacement
